US08304434B2
Step 5: 2-(methylsulfonyl)-4-(trifluoromethoxy)benzoic acid
To a 16 ml vial was loaded 2-bromo-4-(trifluoromethoxy)benzoic acid (225 mg, 0.79 mmol), sodium methylsulfinate (161 mg, 1.58 mmol), CuI (301 mg, 1.58 mmol), KOH (44 mg, 0.79 mmol, in 0.1 ml water) and 4 ml dimethyl sulfoxide. The reaction mixture was flushed with nitrogen, sealed and heated at 120° C. for 5 hours. After cooling to room temperature, it was diluted with 40 ml ether/ethyl acetate (1:1), 30 ml brine and 10 ml 3N HCl. The mixture was filtered through a pad of celite. The layers were separated, and the organic portion was dried over sodium sulfate, filtered and concentrated. The residue was purified with HPLC on a reverse phase column eluted with water and acetonitrile gradient solvent to give desire product as white solid.

reactant | 2-bromo-4-(trifluoromethoxy)benzoic acid | 0.79 mmol, 225 mg | BrC1=C(C(=O)O)C=CC(=C1)OC(F)(F)F | C8H4BrF3O3
reactant | sodium methylsulfinate | 1.58 mmol, 161 mg | CS(=O)[O-].[Na+]
reactant | KOH | 0.79 mmol, 0.1 ml, 44 mg | [OH-].[K+]
catalyst | CuI | 1.58 mmol, 301 mg | [Cu]I
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 2-(methylsulfonyl)-4-(trifluoromethoxy)benzoic acid | CS(=O)(=O)C1=C(C(=O)O)C=CC(=C1)OC(F)(F)F | C9H7F3O5S
